US09120837B2
To a solution of di-tert-butyl 2,2′-((2-(2-(((4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetyl)azanediyl)diacetate (283 mg, 0.50 mmol), AcOH (0.10 mL) and 2-(2-formyl-1H-imidazol-1-yl)-N-(3-iodophenyl)acetamide (178 mg, 0.50 mmol) in DCE (20 mL) at 0° C. was added NaBH(OAc)3 (0.30 g, 1.5 mmol). The reaction mixture was stirred at 0° C. for 30 minutes and at room temperature for overnight and decomposed with water. The reaction mixture was extracted with DCM. The organic layer was dried and concentrated under reduced pressure. The residue was purified by biotage over silica gel eluting with DCM to 40% MeOH in DCM to afford di-tert-butyl 2,2′-((2-(2-((((1-(2-((3-iodophenyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetyl)azanediyl)diacetate (254 mg, 56%).

reactant | di-tert-butyl 2,2′-((2-(2-(((4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetyl)azanediyl)diacetate | 0.50 mmol, 283 mg | S(N)(=O)(=O)C1=CC=C(CCNCC=2N(C=CN2)CC(=O)N(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)C=C1 | C26H39N5O7S
reactant | AcOH | 0.10 mL | CC(=O)O | C2H4O2
reactant | 2-(2-formyl-1H-imidazol-1-yl)-N-(3-iodophenyl)acetamide | 0.50 mmol, 178 mg | C(=O)C=1N(C=CN1)CC(=O)NC1=CC(=CC=C1)I | C12H10IN3O2
reactant | NaBH(OAc)3 | 1.5 mmol, 0.30 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | di-tert-butyl 2,2′-((2-(2-((((1-(2-((3-iodophenyl)amino)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-sulfamoylphenethyl)amino)methyl)-1H-imidazol-1-yl)acetyl)azanediyl)diacetate | 254 mg, 56% | IC=1C=C(C=CC1)NC(CN1C(=NC=C1)CN(CCC1=CC=C(C=C1)S(N)(=O)=O)CC=1N(C=CN1)CC(=O)N(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)=O | C38H49IN8O8S
